US08383654B2
Step 4: {3-[2-tert-Butylsulfanylmethyl-4-(2,2-dimethyl-propionylamino)-benzyl]-[1,2,4]oxadiazol-5-yl}-acetic acid
{3-[2-tert-Butylsulfanylmethyl-4-(2,2-dimethyl-propionylamino)-benzyl]-[1,2,4]oxadiazol-5-yl}-acetic acid ethyl ester (0.28 mmol) in MeOH (5 mL) was treated with 1N aqueous LiOH (0.5 mL), and the reaction was stirred for 6 hours at room temperature. The mixture was diluted with H2O and extracted with EtOAc. The combined organic layers were dried and concentrated to give the title compound.

reactant | {3-[2-tert-Butylsulfanylmethyl-4-(2,2-dimethyl-propionylamino)-benzyl]-[1,2,4]oxadiazol-5-yl}-acetic acid ethyl ester | 0.28 mmol | C(C)OC(CC1=NC(=NO1)CC1=C(C=C(C=C1)NC(C(C)(C)C)=O)CSC(C)(C)C)=O | C23H33N3O4S
reactant | LiOH | 1N, 0.5 mL | [Li+].[OH-]
solvent | MeOH | 5 mL | CO | CH4O
solvent | H2O | O | H2O
product | {3-[2-tert-Butylsulfanylmethyl-4-(2,2-dimethyl-propionylamino)-benzyl]-[1,2,4]oxadiazol-5-yl}-acetic acid | C(C)(C)(C)SCC1=C(CC2=NOC(=N2)CC(=O)O)C=CC(=C1)NC(C(C)(C)C)=O | C21H29N3O4S
